US07425551B2
(S)—N—[(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-fluoro-2-methyl-N′-(2,2,2-trifluoro-ethyl)-malonamide
Using (R)—N—[(S)-5-(2-benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-fluoro-2-methyl-malonamic acid and 2,2,2-trifluoro-ethylamine, the title compound was prepared in the same manner as described for example 1c. Final chromatography on silica (heptane/ethyl acetate gradient from 5 to 100%) afforded the title compound as white solid (58%). MS: m/e=558(M+H+).

reactant | (R)—N—[(S)-5-(2-benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-fluoro-2-methyl-malonamic acid | C(C1=CC=CC=C1)OCCN1C2=C(C3=C([C@@H](C1=O)NC([C@@](C(=O)O)(C)F)=O)C=CC=C3)C=CC=C2 | C27H25FN2O5
reactant | 2,2,2-trifluoro-ethylamine | FC(CN)(F)F | C2H4F3N
product | (S)—N—[(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-fluoro-2-methyl-N′-(2,2,2-trifluoro-ethyl)-malonamide | 58% | C(C1=CC=CC=C1)OCCN1C2=C(C3=C([C@@H](C1=O)NC([C@@](C(=O)NCC(F)(F)F)(C)F)=O)C=CC=C3)C=CC=C2 | C29H27F4N3O4
